* Z:\mnt\design.r\spice\examples\3410B-1.875.asc
V1 IN 0 5
L1 N001 OUT 4.7µ
Rload OUT 0 20
C1 OUT 0 4.7µ
XU1 IN 0 N001 IN MP_01 OUT LTC3410B-x.x top=484K bot=360K
.tran 250u startup
.lib LTC3410B-x.x.sub
.backanno
.end
